US05504076
a) N-Benzoyl-N-methylhydrazine
Methylhydrazine (0.212 ml, 4.0 mmol) was dissolved in dichloromethane (10 ml) and was treated dropwise with benzoylchloride (0.232 ml, 2.0 mmol) in dichloromethane (5 ml). After stirring for 0.5h the solution was evaporated to dryness. The residue was partitioned between water and ethyl acetate. The organic phase was dried and evaporated under reduced pressure to give the title compound (0.20 g, 65%); δH (CDCl3) 3.13 (3H, s), 4.5 (2H, brs), and 7.30 (5H, s).

reactant | Methylhydrazine | 4.0 mmol, 0.212 ml | CNN | CH6N2
reactant | benzoylchloride | 2.0 mmol, 0.232 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-Benzoyl-N-methylhydrazine | 0.20 g, 65% | C(C1=CC=CC=C1)(=O)N(N)C | C8H10N2O
